US07781431B2
Step 2: [5-(4-chlorophenyl)-6-cyclohexyl-2-(methoxycarbonyl)-5-phenyl-4H-thieno[3,2-b]pyrrol-4-yl]acetic acid
A solution (0.04 M) of methyl 4-(2-tert-butoxy-2-oxoethyl)-6-cyclohexyl-5-(4-chlorophenyl)-4H-thieno[3,2-b]pyrrole-2-carboxylate in DCM/TFA (1:1) was stirred at RT for 3 h. Evaporation of the solvent gave the title compound (94%) as a solid.

reactant | methyl 4-(2-tert-butoxy-2-oxoethyl)-6-cyclohexyl-5-(4-chlorophenyl)-4H-thieno[3,2-b]pyrrole-2-carboxylate | 0.04 M | C(C)(C)(C)OC(CN1C2=C(C(=C1C1=CC=C(C=C1)Cl)C1CCCCC1)SC(=C2)C(=O)OC)=O | C26H30ClNO4S
solvent | DCM TFA | C(Cl)Cl.C(=O)(C(F)(F)F)O
product | [5-(4-chlorophenyl)-6-cyclohexyl-2-(methoxycarbonyl)-5-phenyl-4H-thieno[3,2-b]pyrrol-4-yl]acetic acid | 94% | ClC1=CC=C(C=C1)C1(C(=C2C(N1CC(=O)O)=CC(S2)C(=O)OC)C2CCCCC2)C2=CC=CC=C2 | C28H28ClNO4S
